US04268510
5-Methoxycarbonylanthranilamide (1.0 g.) anhydrous chloral (5 ml.) and bis(2-methoxyethyl) ether (20 ml.) were heated together on a steam bath for 20 minutes, then evaporated to dryness under reduced pressure. The residue solidified on stirring with diethyl ether, and it was filtered off and purified by chromatography on silica gel (250 g.). The column was eluted with a mixture of ethyl formate and toluene (7:3 by volume), and 50 ml. fractions were collected. Fractions 10 to 13 were combined and evaporated to dryness, and the residue solidified on stirring with petroleum ether (b.p. 60°-80° C.) to give the required starting material, N-(1-hydroxy-2,2,2-trichloroethyl)-5-methoxycarbonylanthranilamide, m.p. 93° C. (with decomposition).

reactant | 5-Methoxycarbonylanthranilamide | 1.0 g | COC(=O)C1=CC=C(C(C(=O)N)=C1)N | C9H10N2O3
reactant | chloral | 5 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | bis(2-methoxyethyl) ether | 20 ml | COCCOCCOC | C6H14O3
product | N-(1-hydroxy-2,2,2-trichloroethyl)-5-methoxycarbonylanthranilamide | OC(C(Cl)(Cl)Cl)NC(C=1C(N)=CC=C(C1)C(=O)OC)=O | C11H11Cl3N2O4
